data/oMe_Silver.jsonl
{"reaction_id": "NR-237_1-CC_2-c1ccc(OC)cc1_3-c1ccc(F)cc1_4-c1ncccc1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["CCN=[N+]=[N-]","P(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ncccc1)"],"products_smiles": ["CCN","O=P(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ncccc1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCN=[N+]=N[P+](c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ncccc1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCN1N=NP1(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ncccc1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CCN=P(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ncccc1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC[NH+]=P(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ncccc1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCN[P](O)(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ncccc1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CCN","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
{"reaction_id": "NR-317_1-c1ccc(c2ccccc2)cc1_2-c1ccc(C#N)cc1","level": "medium","name": "Weinreb Ketone Synthesis","reactants_smiles": ["c1ccc(c2ccccc2)cc1[Mg]Br","CON(C)C(=O)(c1ccc(C#N)cc1)","O"],"products_smiles": ["C(=O)(c1ccc(c2ccccc2)cc1)(c1ccc(C#N)cc1)"],"conditions": "1. Grignard Reagent; 2. Aqueous workup","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(c2ccccc2)cc1C(c1ccc(C#N)cc1)(O[Mg-]1(Br))N(C)[O+]1C","step_weight": 0,"rationale": "The strongly nucleophilic Grignard carbon attacks the electrophilic carbonyl carbon, aided by the electron-withdrawing carbonyl and chelation of the methoxy amide to Mg, stabilizing the tetrahedral intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(c2ccccc2)cc1)(O)(c1ccc(C#N)cc1)N(C)OC","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide oxygen, driven by the high basicity of the alkoxide and the availability of protons in acidic or neutral aqueous conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(c2ccccc2)cc1)(O)(c1ccc(C#N)cc1)[NH+](C)OC","step_weight": 0,"rationale": "Protonation of the amide nitrogen increases its leaving group ability by generating a positively charged, resonance-stabilized ammonium species."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(c1ccc(c2ccccc2)cc1)(c1ccc(C#N)cc1)","step_weight": 0,"rationale": "Elimination occurs as the protonated amine departs, driven by formation of the strong C=O π bond and the stability of the neutral amine leaving group."}],"description": "The Grignard reagent attacks the electrophilic carbonyl carbon of the Weinreb amide, forming a tetrahedral intermediate stabilized by chelation to magnesium. Proton transfers under aqueous workup prepare the intermediate for elimination of the amine, yielding the ketone selectively without over-addition."}
